US08097613B2
4-Fluorobenzaldehyde (0.547 mL, 5.10 mmol), sodium acetate (0.837 g, 10.2 mmol), powdered/activated 4 Å molecular sieves (1.0 g) and sodium cyanoborohydride (0.641 g, 10.2 mmol) were added sequentially to a solution of racemic 3-amino-4-methyl-pentanoic acid ethyl ester hydrochloride (0.998 g, 5.10 mmol) in methanol (25 mL) at 25° C. The mixture was stirred at 25° C. for 22 h, and then was filtered through Celite. The Celite was washed with ethyl acetate (2×30 mL) and the combined filtrate and washings were partitioned between half-saturated aqueous sodium bicarbonate solution (150 mL) and ethyl acetate (2×150 mL). The combined organic layers were dried over sodium sulfate and were concentrated in vacuo. The residue was purified by flash column chromatography (Teledyne Isco RediSep column; 0-70% ethyl acetate in hexanes) to afford rac-3-(4-fluoro-benzylamino)-4-methyl-pentanoic acid ethyl ester (0.723 g, 2.70 mmol, 53%) as a pale yellow oil. 1H NMR (400 MHz, CDCl3) δ: 0.92 (6H, t (apparent), J=6.8 Hz), 1.26 (3H, t, J=7.1 Hz), 1.85-1.93 (1H, m), 2.35 (1H, dd, J1=8.1 Hz, J2=15.1 Hz), 2.45 (1H, dd, J1=4.6 Hz, J2=15.0 Hz), 2.87-2.92 (1H, m), 4.13 (2H, q, J=7.0 Hz), 6.96-7.00 (2H, m), 7.28-7.32 (2H, m).

reactant | 4-Fluorobenzaldehyde | 5.10 mmol, 0.547 mL | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | sodium acetate | 10.2 mmol, 0.837 g | C(C)(=O)[O-].[Na+]
reactant | sodium cyanoborohydride | 10.2 mmol, 0.641 g | C(#N)[BH3-].[Na+]
reactant | racemic 3-amino-4-methyl-pentanoic acid ethyl ester hydrochloride | 5.10 mmol, 0.998 g | Cl.C(C)OC(CC(C(C)C)N)=O
solvent | methanol | 25 mL | CO | CH4O
product | rac-3-(4-fluoro-benzylamino)-4-methyl-pentanoic acid ethyl ester | 2.70 mmol, 0.723 g, 53% | C(C)OC(CC(C(C)C)NCC1=CC=C(C=C1)F)=O | C15H22FNO2
